US07683067B2
6-Chloronicotinic acid 1-oxide
m-Chloroperbenzoic acid (7.46 g, 26.0 mmol) was added to a suspension of 6-chloronicotinic acid (3.14 g, 20.0 mmol) in chloroform (30 mL) at room temperature. The mixture was stirred for 24 h at 45° C. followed by cooling to 0° C. The resulting white precipitate was filtered off, washed with chloroform (10 mL), and air-dried to give 3.22 g, (93% yield) of the title compound: 1H NMR (DMSO-d6, 400 MHz) δ 8.72 (s, 1H), 7.97 (d, J=8.0 Hz, 1H), 7.78 (d, J=8.0 Hz, 1H); MS (EI) m/z 174 and 176 (M++1).

reactant | m-Chloroperbenzoic acid | 26.0 mmol, 7.46 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 6-chloronicotinic acid | 20.0 mmol, 3.14 g | ClC1=NC=C(C(=O)O)C=C1 | C6H4ClNO2
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-Chloronicotinic acid 1-oxide | 93% yield | ClC1=[N+](C=C(C(=O)O)C=C1)[O-] | C6H4ClNO3
